US07425631B2
Step E. Preparation of 3-(R)-(4-fluoro-phenyl)-N-(6-formyl-1, 2,3,4-tetrahydro-naphthalen-2-(R)-yl)-3-(3-trifluoromethyl-benzenesulfonylamino)-propionamide.
To a solution of 3-(R)-(4-fluoro-phenyl)-3-(3-trifluoromethyl-benzenesulfonylamino)-N-(6-vinyl-1,2,3,4-tetrahydro-naphthalen-2-(R)-yl)-propionamide (314 mg, 0.575 mmol) in 13 mL of a mixture solvent t-butanol/THF/water (10:2:1) was added NMO (135 mg, 1.15 mmol), followed by OsO4 (2.5% w/w in t-butanol, 175 mg, 0.017 mmol). After stirring overnight at RT, 4 mL of pH=7.2 phosphate buffer was added, followed by NaIO4 (615 mg, 2.875 mmol). After stirring for 5 h at RT, the solution was diluted with EtOAc and washed with brine. The organic phase was dried over Na2SO4 and evaporated to dryness in vacuo. Flash chromatography (SiO2, EtOAc/hexane=1:1) afforded the desired compound as a white solid.

reactant | 3-(R)-(4-fluoro-phenyl)-3-(3-trifluoromethyl-benzenesulfonylamino)-N-(6-vinyl-1,2,3,4-tetrahydro-naphthalen-2-(R)-yl)-propionamide | 0.575 mmol, 314 mg | FC1=CC=C(C=C1)[C@@H](CC(=O)N[C@H]1CC2=CC=C(C=C2CC1)C=C)NS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C28H26F4N2O3S
reactant | t-butanol THF water | C(C)(C)(C)O.C1CCOC1.O
reactant | NMO | 1.15 mmol, 135 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | phosphate | 4 mL, pH=7.2 | P(=O)([O-])([O-])[O-]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | OsO4 | 0.017 mmol, 175 mg | O=[Os](=O)(=O)=O
product | 3-(R)-(4-fluoro-phenyl)-N-(6-formyl-1, 2,3,4-tetrahydro-naphthalen-2-(R)-yl)-3-(3-trifluoromethyl-benzenesulfonylamino)-propionamide | FC1=CC=C(C=C1)[C@@H](CC(=O)N[C@H]1CC2=CC=C(C=C2CC1)C=O)NS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C27H24F4N2O4S
